US07405231B2
1-[4-(2-Methyl-4-{2-[2-(4-trifluoromethanesulfonyl-phenyl)-vinyl]-oxazol-4-ylmethoxy}-phenyl)-butyl]-1H-[1,2,3]triazole
A mixture of 132 mg (0.57 mmol) 3-methyl-4-(4-[1,2,3]triazol-1-yl-butyl)-phenol and 186 mg (0.57 mmol) cesium carbonate in 10 ml butanone was stirred at 60° C. for 30 min, then 200 mg (0.57 mmol) 4-chloromethyl-2-[2-(4-trifluoromethanesulfonyl-phenyl)-vinyl]-oxazole and 95 mg (0.57 mmol) potassium iodide were added and stirring at 60° C. continued over night. After evaporation, 50 ml water was added and the mixture extracted with two portions of 50 ml ethyl acetate. The combined organic layers were washed with 1N sodium hydroxide and water, dried over sodium sulfate and evaporated. Chromatography on silica, eluent ethyl acetate, returned 150 mg (49%) pure title compound as light yellow crystals melting at 140-142° C.

reactant | 3-methyl-4-(4-[1,2,3]triazol-1-yl-butyl)-phenol | 0.57 mmol, 132 mg | CC=1C=C(C=CC1CCCCN1N=NC=C1)O | C13H17N3O
reactant | cesium carbonate | 0.57 mmol, 186 mg | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | 4-chloromethyl-2-[2-(4-trifluoromethanesulfonyl-phenyl)-vinyl]-oxazole | 0.57 mmol, 200 mg | ClCC=1N=C(OC1)C=CC1=CC=C(C=C1)S(=O)(=O)C(F)(F)F | C13H9ClF3NO3S
reactant | potassium iodide | 0.57 mmol, 95 mg | [I-].[K+]
solvent | butanone | 10 ml | CC(CC)=O | C4H8O
product | 1-[4-(2-Methyl-4-{2-[2-(4-trifluoromethanesulfonyl-phenyl)-vinyl]-oxazol-4-ylmethoxy}-phenyl)-butyl]-1H-[1,2,3]triazole | CC1=C(C=CC(=C1)OCC=1N=C(OC1)C=CC1=CC=C(C=C1)S(=O)(=O)C(F)(F)F)CCCCN1N=NC=C1 | C26H25F3N4O4S
